US05385909
Quinoline-6-carboxylic acid (1.0 eq, 14.01 mmol) and ammonium formate (22 g, 350.1 mmol) were dissolved in MeOH (100 mL) and 10% Pd/C (4.04 g) was added. The solution was heated at reflux for 2.5 h then cooled to room temperature and filtered through celite. The solvent was removed to provide 1,2,3,4-tetrahydroquinoline-6-carboxylic acid in quantitative yield. 1H NMR (200 MHz, DMSO) δ1.78 (m, 2H), 2.65 ((m, 2H), 3.2 (m, 2H), 6.4 (m, 2H), 7.45 (m, 2H).

reactant | Quinoline-6-carboxylic acid | 14.01 mmol, 1.0 eq | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | ammonium formate | 350.1 mmol, 22 g | C(=O)[O-].[NH4+]
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 4.04 g | [Pd] | Pd
product | 1,2,3,4-tetrahydroquinoline-6-carboxylic acid | quantitative yield | N1CCCC2=CC(=CC=C12)C(=O)O | C10H11NO2
